US07919488B2
{5-(4-fluorobenzyl)-3-[1-(4-methoxybenzyl)-1H-1,2,3-triazol-4-yl]-1H-pyrazol-1-yl}acetic acid
To a solution of tert-butyl {5-(4-fluorobenzyl)-3-[1-(4-methoxybenzyl)-1H-1,2,3-triazol-4-yl]-1H-pyrazol-1-yl}acetate (14.0 g, 29.3 mmol) in mixed solvent of MeOH/THF (60 mL/20 mL) was added a solution of NaOH (3.5 g, 88 mmol) in H2O (20 mL) and the reaction mixture was stirred at room temperature for an hour. The mixture was evaporated and the residue was diluted with water (100 mL) and washed with EtOAc (2×100 mL). The aqueous layer was adjusted to pH=3-4 with conc. HCl. The precipitate was filtered and dried in vacuo to afford the title compound (11.0 g, 90.0%) as a yellow solid.

reactant | tert-butyl {5-(4-fluorobenzyl)-3-[1-(4-methoxybenzyl)-1H-1,2,3-triazol-4-yl]-1H-pyrazol-1-yl}acetate | 29.3 mmol, 14.0 g | FC1=CC=C(CC2=CC(=NN2CC(=O)OC(C)(C)C)C=2N=NN(C2)CC2=CC=C(C=C2)OC)C=C1 | C26H28FN5O3
reactant | MeOH THF | 60 mL | CO.C1CCOC1
reactant | NaOH | 88 mmol, 3.5 g | [OH-].[Na+]
solvent | H2O | 20 mL | O | H2O
product | {5-(4-fluorobenzyl)-3-[1-(4-methoxybenzyl)-1H-1,2,3-triazol-4-yl]-1H-pyrazol-1-yl}acetic acid | 11.0 g, 90.0% | FC1=CC=C(CC2=CC(=NN2CC(=O)O)C=2N=NN(C2)CC2=CC=C(C=C2)OC)C=C1 | C22H20FN5O3
